US05637733
Resorcinol (470 g, technical grade 99.4%, white flakes) was added to a one-liter jacketed glass vessel and heated to 135 C. in order to melt the resorcinol. Once melted, phthalic anhydride (124 g, technical grade 99.7%, white flakes) was added to the vessel, and the reaction mixture was blanketed with nitrogen, mixed and heated to 200 C. The reaction mixture was held at 200-215 C. for approximately 2 hours while the water (24 g) was removed by distillation. Upon completion, the reaction mixture was cooled to 185 C. and quenched with water by transferring the reaction mixture under nitrogen to a stirred vessel containing water (approximately 500 ml). The vessel was then rinsed with water to transfer all of the precipitated product. The combined product slurry in water was digested at 75 C. (to dissolve any unreacted intermediates) and cooled to 35 C. The product was recovered by vacuum filtration in the form of a filter cake. This filter cake was washed free of dissolved impurities, such as resorcinol, by mixing and heating with fresh water (approximately 1L), filtering and rinsing with about 800 ml boiling hot water. This cake upon drying yielded fluorescein (250.1 g).

reactant | Resorcinol | 470 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | phthalic anhydride | 124 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
product | fluorescein | 250.1 g | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
